US07576099B2
Methyl 5-(3,3-dimethylbut-1-ynyl)picolinate
To a 250 mL sealed reaction vessel was added methyl 5-bromopyridine-2-carboxylate (5 g, 23 mmol), copper(I) iodide (0.43 g, 2.3 mmol), bis(triphenylphosphine) palladium(II) chloride (3.23 g, 4.6 mmol), and triethylamine (80 mL). The mixture was allowed to stir for approximately 10 minutes upon which 3,3-dimethylbut-1-yne (2.83 g, 34.5 mmol) was added. The tube was sealed, stirred at room temperature overnight, and heated at 60° C. for one hour. The mixture was allowed to cool, and then concentrated under vacuum to a residue. The residue was purified by column chromatography on silica gel using EtOAc/hexanes (1:10) as eluent to give the product (4.62 g, 92%) as a tan solid which was used directly in the next step.

reactant | methyl 5-bromopyridine-2-carboxylate | 23 mmol, 5 g | BrC=1C=CC(=NC1)C(=O)OC | C7H6BrNO2
reactant | 3,3-dimethylbut-1-yne | 34.5 mmol, 2.83 g | CC(C#C)(C)C | C6H10
catalyst | copper(I) iodide | 2.3 mmol, 0.43 g | [Cu]I
catalyst | bis(triphenylphosphine) palladium(II) chloride | 4.6 mmol, 3.23 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | triethylamine | 80 mL | C(C)N(CC)CC | C6H15N
product | Methyl 5-(3,3-dimethylbut-1-ynyl)picolinate | 4.62 g, 92% | CC(C#CC=1C=CC(=NC1)C(=O)OC)(C)C | C13H15NO2
